US09427475B2
Step I: benzyl 6-(bis{2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoate
To a solution of 6-(benzyloxy)-6-oxohexanoic acid (40 mg, 0.169 mmol), EDC (114 mg, 0.593 mmol) and HOBt (2.59 mg, 0.017 mmol) in DMF (5 mL) at rt was added 2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)ethyl α-L-fucopyranoside (190 mg, 0.478 mmol). After stirring for 16 hr, the reaction mixture was concentrated and the residue was purified by flash chromatography on C18 reverse phase silica gel (50 g), eluting with 5-40% AcCN in water to give the title compound. UPLC Method B: m/e=616.2923 [M+1]; Rt=3.114 min. 1H NMR (CD3OD) δ 1.24 (6H, d, J=6.58), 1.72-1.64 (4H, m), 2.45 (2H, t, J=7.11), 2.53 (2H, t, J=7.32), 3.91-3.55 (17H, m), 4.78-4.75 (2H, m), 5.14 (2H, s), 7.38-7.37 (5H, m).

reactant | 6-(benzyloxy)-6-oxohexanoic acid | 0.169 mmol, 40 mg | C(C1=CC=CC=C1)OC(CCCCC(=O)O)=O | C13H16O4
reactant | EDC | 0.593 mmol, 114 mg
reactant | HOBt | 0.017 mmol, 2.59 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)ethyl α-L-fucopyranoside | 0.478 mmol, 190 mg | O([C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)CCNCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C16H31NO10
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | benzyl 6-(bis{2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoate | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCN(C(CCCCC(=O)OCC1=CC=CC=C1)=O)CCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C29H45NO13
